US07378415B2
A solution of 4-(7-benzenesulfonyl-2,2-dimethyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-1-methyl-pyridinium iodide (0.237 g., 0.452 mmol) in 10 mL methanol was added to a suspension of sodium borohydride (0.085 g., 2.260 mmol) in 10 mL methanol at 0C. The reaction was stirred at 0° C. for 3 hours, then stirred for 18 hours at room temperature. The reaction mixture was concentrated in vacuo and the resulting crude solid was dissolved in a mixture of 50 mL water and 50 mL ethyl acetate. The organic phase was washed twice with 50 mL ethyl acetate, and the combined organic phase was dried over sodium sulfate and concentrated in vacuo to give 187 mg. of a yellow foam. This foam was dissolved in 20 mL ethanol and added to 25 mg. of a 5% dispersion of palladium metal on charcoal suspended in 5 mL ethanol. The suspension was purged with hydrogen gas and maintained at a pressure of 55 psi for 48 hours. The reaction mixture was filtered through celite, concentrated in vacuo and purified by flash chromatography (12:1:0.1 CH2Cl2:MeOH:NH4OH) to give 114 mg (63%) of 7-benzenesulfonyl-2,2-dimethyl-4-(1-methyl-piperidin-4-yl)-3,4-dihydro-2H-benzo[1,4]oxazine as a clear oil. MS: 401 (M+H)+.

reactant | 4-(7-benzenesulfonyl-2,2-dimethyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-1-methyl-pyridinium iodide | 0.452 mmol, 0.237 g | [I-].C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CC(O2)(C)C)C2=CC=[N+](C=C2)C)C=C1
reactant | sodium borohydride | 2.260 mmol, 0.085 g | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 7-benzenesulfonyl-2,2-dimethyl-4-(1-methyl-piperidin-4-yl)-3,4-dihydro-2H-benzo[1,4]oxazine | 114 mg, 63% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CC(O2)(C)C)C2CCN(CC2)C)C=C1 | C22H28N2O3S
